US04250123
17 parts by weight of cyclohexene are added dropwise at +10° C. to a mixture of 40 parts by weight of 3-phenylpropyl bromide and 20 parts by weight of 96% strength sulfuric acid. Stirring is continued for 14 hours at room temperature. The crude product is dissolved in CHCl3 and thhe solution is thoroughly washed with ice water, dried over Na2CO3 and distilled. 35 parts by weight of 3-(4-cyclohexylphenyl)-propyl bromide are obtained.

reactant | cyclohexene | C1=CCCCC1 | C6H10
reactant | 3-phenylpropyl bromide | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-cyclohexylphenyl)-propyl bromide | C1(CCCCC1)C1=CC=C(C=C1)CCCBr | C15H21Br
